US05851946
5 g of 3-dimethylaminopropyllithium (53.7 mmol) are suspended in 40 ml of pentane, and a solution of 4 g of methylgallium dichloride (25.7 mmol) in 20 ml of benzene is added dropwise. The mixture is first stirred at room temperature for one hour and then boiled under reflux for 6 hours. After cooling, the lithium chloride and excess lithium salt are filtered off and the solvent is stripped off in vacuo. The residue which remains is sublimed in vacuo at an oil bath temperature of 60° C. Bis-(3-dimethylaminopropyl)methylgallium is obtained as a white solid of melting point 52° C.

reactant | 3-dimethylaminopropyllithium | 53.7 mmol, 5 g | CN(CCC[Li])C
reactant | methylgallium dichloride | 25.7 mmol, 4 g | [Cl-].[Cl-].C[Ga+2]
solvent | pentane | 40 ml | CCCCC | C5H12
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
product | Bis-(3-dimethylaminopropyl)methylgallium | CN(CCC[Ga](C)CCCN(C)C)C | InChI=1S/2C5H12N.CH3.Ga/c2*1-4-5-6(2)3;;/h2*1,4-5H2,2-3H3;1H3;
